US09193692B2
H. 4-((cis)-4-Methoxycyclohexyl)-6-(2-methyl-6-(4H-1,2,4-triazol-3-yl)pyridin-3-yl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one
4-((cis)-4-Methoxycyclohexyl)-6-(2-methyl-6-(4-(tetrahydro-2H-pyran-2-yl)-4H-1,2,4-triazol-3-yl)pyridin-3-yl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one (0.279 g, 0.553 mmol) was diluted with ethanol (15 mL) and hydrogen chloride (4.0 N in dioxanes, 5 mL). The solution was stirred at 75° C. for 1 h and at 80° C. for 2 h. The solution was condensed to a slurry and diluted with ethanol and sonicated. The precipitate was filtered and washed with additional ethanol followed by acetonitrile. The crude solid was purified using reverse-phased semi-preparative HPLC (10-100% acetonitrile+0.1% TFA in water+0.1% TFA, over 30 min) to afford the title compound (0.040 g, 0.095 mmol, 17% yield). 1H NMR (400 MHz, METHANOL-d4) δ (ppm) 7.88-8.13 (m, 2H), 7.65 (s, 1H), 4.58 (s, 1H), 4.16 (s, 2H), 3.47 (br. s., 1H), 3.22-3.32 (m, 66H), 2.73 (s, 3H), 2.08 (br. s., 2H), 1.91 (br. s., 2H), 1.56 (br. s., 4H); MS (ESI) m/z 421.2 [M+1]+; mp 192-195° C.

reactant | 4-((cis)-4-Methoxycyclohexyl)-6-(2-methyl-6-(4-(tetrahydro-2H-pyran-2-yl)-4H-1,2,4-triazol-3-yl)pyridin-3-yl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one | 0.553 mmol, 0.279 g | CO[C@H]1CC[C@H](CC1)N1CC(NC2=NC=C(N=C21)C=2C(=NC(=CC2)C2=NN=CN2C2OCCCC2)C)=O | C26H32N8O3
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | hydrogen chloride | 4.0 N, 5 mL | Cl | ClH
product | 4-((cis)-4-Methoxycyclohexyl)-6-(2-methyl-6-(4H-1,2,4-triazol-3-yl)pyridin-3-yl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one | 0.095 mmol, 0.040 g, 17% yield | CO[C@H]1CC[C@H](CC1)N1CC(NC2=NC=C(N=C21)C=2C(=NC(=CC2)C2=NN=CN2)C)=O | C21H24N8O2
